US06878722B2
A neat solution of 5.58 g (34 mmol) of 1-Bromo-3-methyl-butan-2-one and 4.50 g (34 mmol) of ethyl thioxamate (Aldrich) was heated at 70° C. over 18 h and then cooled to room temperature. The mixture was partitioned between sat. aqueous NaHCO3 and EtOAc, the EtOAc layer dried (MgSO4), concentrated and chromatographed over SiO2 (eluted with 2% to 40% EtOAc/hexanes) to afford 3.4 g (48% overall) of 4-isopropylthiazole-2-carboxylic acid ethyl ester as an oil: 1H NMR (500 MHz, CDCl3) δ ppm 1.32 (d, J=7 Hz, 6H), 1.42 (t, J=7.2 Hz, 3H), 3.23 (m, 1H), 4.46 (q, J=7.2 Hz, 2H), 7.18 (s, 1H).

reactant | 1-Bromo-3-methyl-butan-2-one | 34 mmol, 5.58 g | BrCC(C(C)C)=O | C5H9BrO
reactant | ethyl thioxamate | 34 mmol, 4.50 g | CCOC(=O)C(=S)N | C4H7NO2S
product | 4-isopropylthiazole-2-carboxylic acid ethyl ester | 3.4 g, 48% | C(C)OC(=O)C=1SC=C(N1)C(C)C | C9H13NO2S
